US07223789B2
Step 2: N1-phenyl-4-methoxy-8-amino-dibenzo[b,d]furan-1-carboxamide
N1-phenyl-4-methoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide (100 mg) (from step1) was reduced using raney nickel (100 mg) in methanol (40 ml) and DMF (10 ml) in the presence of hydrazine hydrate (0.5 ml) under gentle reflux for 1 h. The reaction mixture was fliterd through celite and the filterate was concentrated in vaccuo. The residue was triturated with water, to obtain a solid which was filtered dried to give the product as white solid (90 mg).

reactant | N1-phenyl-4-methoxy-8-nitro-dibenzo[b,d]furan-1-carboxamide | 100 mg | C1(=CC=CC=C1)NC(=O)C1=CC=C(C=2OC3=C(C21)C=C(C=C3)[N+](=O)[O-])OC | C20H14N2O5
reactant | hydrazine hydrate | 0.5 ml | O.NN
catalyst | raney nickel | 100 mg | [Ni] | Ni
solvent | methanol | 40 ml | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N1-phenyl-4-methoxy-8-amino-dibenzo[b,d]furan-1-carboxamide | 90 mg | C1(=CC=CC=C1)NC(=O)C1=CC=C(C=2OC3=C(C21)C=C(C=C3)N)OC | C20H16N2O3
